### PR TITLE
feat(GelfondSchneider): add MainAlg Siegel matrix setup

### PR DESCRIPTION
**Pull request by mkaratarakis**
Add `GelfondSchneider.MainAlg`, setting up the scaled Siegel matrix and house-norm bounds used in the Gelfond–Schneider proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #39872
- [x] depends on: #39873
- [ ] depends on: #39875

Supersedes #35733.

### CODE REVIEW

**Comment by mkaratarakis** [comment]
Hi @tb65536, the analysis and algebra prerequisites are now merged, and the first file has been refactored. Ready for your review!

File: Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean [hunk 1]
```diff
@@ -0,0 +1,564 @@
...
+
+noncomputable section
+
+/-!
+Suppose that `α, β, γ` lie in an algebraic field `K` with degree `h`.
+-/
+
+lemma isNumberField_adjoin_of_isAlgebraic (α β γ : ℂ) (hα : IsAlgebraic ℚ α)
+    (hβ : IsAlgebraic ℚ β) (hγ : IsAlgebraic ℚ γ) :
+    NumberField (adjoin ℚ {α, β, γ}) :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean]: Can you generalize this to `FiniteDimensional`? We have `IntermediateField.finiteDimensional_adjoin_pair` and more generally `IntermediateField.finiteDimensional_adjoin`?

File: Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean [hunk 2]
```diff
@@ -0,0 +1,564 @@
...
+  have : FiniteDimensional ℚ (adjoin ℚ {α, β, γ}) := finiteDimensional_adjoin fun _ hx ↦ by
+    rcases hx with rfl | rfl | rfl
+    exacts [isAlgebraic_iff_isIntegral.1 hα, isAlgebraic_iff_isIntegral.1 hβ,
+      isAlgebraic_iff_isIntegral.1 hγ]
+  NumberField.of_module_finite (K := ℚ) _
+
+lemma exists_common_field_of_isAlgebraic (α β γ : ℂ) (hα : IsAlgebraic ℚ α)
+    (hβ : IsAlgebraic ℚ β) (hγ : IsAlgebraic ℚ γ) :
+    ∃ (K : Type) (_ : Field K) (_ : NumberField K) (σ : K →+* ℂ)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean]: I'm not so sure this lemma as-stated is good for mathlib. One option would be to follow API like `IntermediateField.AdjoinPair.gen₁`.

File: Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean [hunk 3]
```diff
@@ -0,0 +1,564 @@
...
+include htriv habc hirr in
+lemma alpha'_beta'_gamma'_ne_zero : α' ≠ 0 ∧ β' ≠ 0 ∧ γ' ≠ 0 :=
+  ⟨fun H ↦ htriv.1 (by simp [habc.1, H, map_zero σ]),
+   fun H ↦ beta_ne_zero β hirr (by simp [habc.2.1, H, map_zero σ]),
+   fun H ↦ alpha_cpow_beta_ne_zero α β htriv (by simp [habc.2.2, H, map_zero σ])⟩
+
+variable [NumberField K]
+
+/-- The integer denominator of `α`, given by `Algebra.natDenominator`. -/
+abbrev intDenom (α : K) : ℤ := (Algebra.natDenominator α).cast
```
Comment (tb65536) [inline Mathlib/NumberTheory/Transcendental/GelfondSchneider/MainAlg.lean]: Since this is just a coercion, I don't know if it's necessary to have a separate declaration for it.
